US07214824B2
32(e): 2-[4-tert-Butyl-3-(cyclopropylmethoxy)phenoxy]-N-{3-fluoro-4-[(methylsulfonyl)amino]benzyl}acetamide
[4-tert-Butyl-3-(cyclopropylmethoxy)phenoxy]acetic acid (139 mg, 0.5 mmol), 2-chloro-1,3-dimethylimidazolinium chloride (CDI) (89 mg, 0.6 mmol), triethylamine (0.2 ml) and N-[4-(aminomethyl)-2-fluorophenyl]methanesulfonamide hydrochloride (140 mg, 0.6 mmol) were treated in the same procedure described in Example 2(b). The crude residue was applied to a silica gel chromatography column and eluted with a volume mixture of hexane and ethyl acetate (3/1) to furnish 188 mg (78% yield) of the title compound as a white solid.

reactant | [4-tert-Butyl-3-(cyclopropylmethoxy)phenoxy]acetic acid | 0.5 mmol, 139 mg | C(C)(C)(C)C1=C(C=C(OCC(=O)O)C=C1)OCC1CC1 | C16H22O4
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.6 mmol, 89 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | N-[4-(aminomethyl)-2-fluorophenyl]methanesulfonamide hydrochloride | 0.6 mmol, 140 mg | Cl.NCC1=CC(=C(C=C1)NS(=O)(=O)C)F
solvent | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
product | 2-[4-tert-Butyl-3-(cyclopropylmethoxy)phenoxy]-N-{3-fluoro-4-[(methylsulfonyl)amino]benzyl}acetamide | 188 mg, 78% yield | C(C)(C)(C)C1=C(C=C(OCC(=O)NCC2=CC(=C(C=C2)NS(=O)(=O)C)F)C=C1)OCC1CC1 | C24H31FN2O5S
